US07429565B2
(2-{2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester
2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal (26.6 mg, 0.068 mmol) and aminoethylphosphonic acid diethylester oxalate salt (20.4 mg, 0.075 mmol) were dissolved in DMF (0.8 mL). Acetic acid (20.5 mg, 0.342 mmol) was added, followed by sodium triacetoxyborohydride (27.6 mg, 0.137 mmol). After 8 hrs, the crude reaction mixture was purified by RP-HPLC (eluent: water/MeCN) to provide 24.9 mg (65%) of the desired product after lyophilization. 1H NMR (300 MHz, CDCl3): δ=0.05 (s, 9H), 1.10-1.24 (m, 8H), 1.35 (t, J=7.5 Hz, 6H), 2.19 (s, 3H), 2.23 (m, 2H), 2.35 (q, J=7.8 Hz, 2H), 2.70 (q, J=7.2 Hz, 2H), 3.25 (m, 2H), 3.56 (m, 4H), 4.15 (m, 4H), 4.29 (m, 2H), 5.15 (s, 2H), 5.47 (m, 1H) ppm; 31P NMR (121 MHz, CDCl3): δ=27.71 ppm; MS=554 [M++1].

reactant | 2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enal | 0.068 mmol, 26.6 mg | C(C)C(C=O)=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)OCC[Si](C)(C)C | C22H32O4Si
reactant | aminoethylphosphonic acid diethylester oxalate salt | 0.075 mmol, 20.4 mg | C(C(=O)O)(=O)O.C(C)OP(OCC)(=O)CCN
reactant | Acetic acid | 0.342 mmol, 20.5 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.137 mmol, 27.6 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | (2-{2-Ethyl-4-[6-ethyl-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-but-2-enylamino}-ethyl)-phosphonic acid diethyl ester | 24.9 mg, 65% | C(C)OP(OCC)(=O)CCNCC(=CCC=1C(=C2C(OCC2=C(C1CC)C)=O)OCC[Si](C)(C)C)CC | C28H48NO6PSi
